US07435823B2
Step (e) Preparation of 6-(6,7-dimethoxyquinolin-4-yloxy)-5-fluoro-1-naphthoyl chloride
A suspension of 6-(6,7-dimethoxyquinolin-4-yloxy)-5-fluoro-1-naphthoic acid (1.23 g, 3.12 mmol) in thionyl chloride (3 mL, excess) was refluxed for 1.5 h. The reaction mixture was concentrated in-vacuo and azeotroped with toluene (×2) to give the title compound as a brown solid.

reactant | 6-(6,7-dimethoxyquinolin-4-yloxy)-5-fluoro-1-naphthoic acid | 3.12 mmol, 1.23 g | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C(=C2C=CC=C(C2=CC1)C(=O)O)F | C22H16FNO5
reactant | thionyl chloride | 3 mL | S(=O)(Cl)Cl | Cl2OS
product | 6-(6,7-dimethoxyquinolin-4-yloxy)-5-fluoro-1-naphthoyl chloride | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C(=C2C=CC=C(C2=CC1)C(=O)Cl)F | C22H15ClFNO4
